US08492582B2
Potassium carbonate (1.0 g) and 1-methylpiperazine (0.83 mL) were added to an acetone (7.5 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (1.5 g), followed by heating to reflux for 2 hours. The reaction mixture was cooled to room temperature, and potassium carbonate (0.34 g) and 1-methylpiperazine (0.28 mL) were added thereto, followed by heating to reflux for 2 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water and chloroform were added to the residue. The organic layer was separated, and the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-95% chloroform/methanol] to obtain tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate.

reactant | Potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | 0.83 mL | CN1CCNCC1 | C5H12N2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 1.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C33H32BrNO5
reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | 0.28 mL | CN1CCNCC1 | C5H12N2
solvent | acetone | 7.5 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)C | C38H43N3O5
